US06727264B1
2-METHYL-N-{3-[1-({1-[2-(TRIFLUOROMETHYL)PHENYL]-1H-INDOL-4-YL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 1-iodo-2-(trifluoromethyl)benzene and N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 520.1 (M+H)+.

reactant | 1-iodo-2-(trifluoromethyl)benzene | IC1=C(C=CC=C1)C(F)(F)F | C7H4F3I
reactant | N-{3-[1-(1H-indol-4-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=C(C=CC=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | 2-METHYL-N-{3-[1-({1-[2-(TRIFLUOROMETHYL)PHENYL]-1H-INDOL-4-YL}METHYL)-4-PIPERIDINYL]PHENYL}PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CC1=C2C=CN(C2=CC=C1)C1=C(C=CC=C1)C(F)(F)F)C | C31H32F3N3O
